US05114615
(1) Synthesis of 4-Docosyloxybenzoic acid
To a solution of docosyl bromide (25 g, 0.064 mol), potassium carbonate (9.0 g) and sodium iodide (9.6 g) in acetone (150 ml), ethyl p-hydroxybenzoate (10.2 g, 0.061 mol) was added, and then reacted for 12 h under reflux with stirring. After cooling, the reaction mixture was filtered to remove inorganic materials, taken up in H2O (500 ml), and extracted with CH2Cl2 (3×100 ml). The organic layer was separated, washed with H2O, dried over MgSO4, and evaporated to dryness. The resultant residue was recrystallized from ethyl acetate to give ethyl 4-docosyloxybenzoate (27 g) as a white crystals; mp 56.5°-59.5° C. Then ethyl 4-docosyloxybenzoate (27 g) was stirred in H2O (120 ml) and ethanol (150 ml) containing sodium hydroxide (4.6 g) for 6 h under reflux. After cooling, the reaction mixture was acidified with hydrochloric acid, the resultant precipitate was filteted, washed with H2O and recrystallized from acetic acid to give the title compound as a white needles; yield: 18.5 g (72.7%); mp 99.0°-101.5° C.

reactant | ethyl 4-docosyloxybenzoate | 27 g | C(CCCCCCCCCCCCCCCCCCCCC)OC1=CC=C(C(=O)OCC)C=C1 | C31H54O3
reactant | ethanol | 150 ml | C(C)O | C2H6O
reactant | sodium hydroxide | 4.6 g | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | H2O | 120 ml | O | H2O
product | 4-Docosyloxybenzoic acid | C(CCCCCCCCCCCCCCCCCCCCC)OC1=CC=C(C(=O)O)C=C1 | C29H50O3
